US06420567B1
To a solution of 1-acetoxymethyl-3-nitro-2,4,6-trimethybenzene (6.0 g, 25.2 mmol) in methanol (100 mL) were sequentially added ammonium chloride (2.7 g in 25 mL of water), zinc powder (11 g). The exothermic reaction was vigorously stirred until it was back to RT (2 h). To work up the crude mixture was filtered off and the cake was washed with methanol. The methanolic solutions were concentrated to a volume of 20 mL, added 1N HCl (300 mL). The insoluble material was removed by filtration, the solution was basified with solid NaHCO3. The semicrystalline precipitate was taken into ethyl acetate. The extract was concentrated and the residual product purified by means of column chromatography (25% ethyl acetate/hexane) to give 3-Acetoxymethyl-2,4,6-trimethylaniline as a pink oil (3.8 g, 75%).

reactant | 1-acetoxymethyl-3-nitro-2,4,6-trimethybenzene | 25.2 mmol, 6.0 g | C(C)(=O)OCC1=C(C(=C(C=C1C)C)[N+](=O)[O-])C | C12H15NO4
reactant | ammonium chloride | 25 mL, 2.7 g | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
catalyst | zinc | 11 g | [Zn] | Zn
product | 3-Acetoxymethyl-2,4,6-trimethylaniline | 3.8 g, 75% | C(C)(=O)OCC=1C(=C(N)C(=CC1C)C)C | C12H17NO2
